US05374615
2-Bromobenzoic acid, ethyl ester
2-Bromobenzoic acid (2.005 g, 9.47 mmol, 1.0 eq.) was combined with iodoethane (1.60 ml, 19.9 mmol, 2.0 eq.)and sodium bicarbonate (1.68 g, 19.9 mmol, 2.0 eq.) in dimethylformamide (10 ml, 1M) and stirred at room temperature for a total of 4 days. The reaction was then diluted with water (20 ml) and extracted with ether:hexane (1:1, 3×20 ml). The combined organic extracts were washed with aqueous 10% sodium hydrogen sulfite (20 ml), water (20 ml), and aqueous saturated sodium chloride (20 ml). Next, the organic extracts were dried over sodium sulfate, filtered through magnesium sulfate and concentrated. The residue was chromatographed on silica gel (50 g) eluting with ether:hexane (1:6) to furnish the title C compound (2.17 g).

reactant | 2-Bromobenzoic acid | 9.47 mmol, 2.005 g, 1.0 eq. | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | iodoethane | 19.9 mmol, 1.60 ml, 2.0 eq. | ICC | C2H5I
reactant | sodium bicarbonate | 19.9 mmol, 1.68 g, 2.0 eq. | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1M, 10 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | 2-Bromobenzoic acid, ethyl ester | 2.17 g | BrC1=C(C(=O)OCC)C=CC=C1 | C9H9BrO2
